US08623889B2
Step 2: (7-chloro-2,6-naphthyridin-3-yl)methanol
A solution of 5.0M hydrogen chloride in water (0.73 mL) was added to a solution of 3-((tert-butyldimethylsilyloxy)methyl)-7-chloro-2,6-naphthyridine (1.13 g, 3.7 mmol) in methanol (15 mL), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with methylene chloride (150 mL), and washed with saturated aqueous sodium bicarbonate solution. The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was suspended in heptane (10 mL) and filtered to provide the title compound as a white powder (645 mg, 90%). 1H NMR (400 MHz, DMSO) δ 9.37 (s, 2H), 8.23 (s, 1H), 8.06 (s, 1H), 5.65 (t, J=5.6 Hz, 1H), 4.78 (d, J=5.6 Hz, 2H).

reactant | hydrogen chloride | 5.0M | Cl | ClH
reactant | 3-((tert-butyldimethylsilyloxy)methyl)-7-chloro-2,6-naphthyridine | 3.7 mmol, 1.13 g | [Si](C)(C)(C(C)(C)C)OCC=1N=CC2=CC(=NC=C2C1)Cl | C15H21ClN2OSi
solvent | water | 0.73 mL | O | H2O
solvent | methanol | 15 mL | CO | CH4O
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | heptane | 10 mL | CCCCCCC | C7H16
product | (7-chloro-2,6-naphthyridin-3-yl)methanol | 645 mg, 90% | ClC1=NC=C2C=C(N=CC2=C1)CO | C9H7ClN2O
